US05880288
To a 22 L flask fitted with a mechanical stirrer, thermocouple, and a reflux condenser, was charged thioacetamide (500.6 g, 6.66 mol) and acetonitrile (4 L). This resulted in an endothermic dissolution. To this solution was added ethyl 2-chloro-4,4,4-trifluoroacetoacetate (1105 g, 5.06 mol) over a period of 40 minutes. A slight exotherm occurred which raised the temperature to 55.820 C. The reaction mixture was stirred for 2.3 hours at room temperature during which time a yellow solid precipitated. Then triethylamine (1380 g, 13.64 mol) was added slowly. The reaction temperature rose to about 52° C. The contents were gently refluxed for one hour (internal temperature 75.8° C). After cooling to 46° C., a 40% sodium hydroxide solution (prepared from 1304 g 50% NaOH and 326 mL water, 16.3 mol) was added over 10 minutes. An exotherm to 53.6° C. was noted. The mixture was placed under a vacuum of 95 mm and the solvent distilled from the reaction until only water (of saponification) is present in the distillate. To the remaining reaction mixture was added 2 L water and 1.5 kg ice. Then concentrated HCl (1500 mL, 18 mol) was added over a 15 minute period to bring the pH to less than 2. Another 2 L water and 2 kg ice were added, and the product was filtered, washed on the filter with 12 L water, and dried in a vacuum oven to obtain 2-methyl-4-(trifluoromethyl)thiazole-5-carboxylic acid, 825 g as a beige solid, a 75.4% yield at 97.6% purity.

reactant | thioacetamide | 6.66 mol, 500.6 g | C(C)(=S)N | C2H5NS
reactant | ethyl 2-chloro-4,4,4-trifluoroacetoacetate | 5.06 mol, 1105 g | ClC(C(=O)OCC)C(=O)C(F)(F)F | C6H6ClF3O3
reactant | triethylamine | 13.64 mol, 1380 g | C(C)N(CC)CC | C6H15N
reactant | sodium hydroxide | 16.3 mol, 326 mL, 1304 g | [OH-].[Na+]
reactant | HCl | 18 mol, 1500 mL | Cl | ClH
solvent | water | 2 L | O | H2O
solvent | water | 2 L | O | H2O
solvent | acetonitrile | 4 L | C(C)#N | C2H3N
product | 2-methyl-4-(trifluoromethyl)thiazole-5-carboxylic acid | 75.4% yield | CC=1SC(=C(N1)C(F)(F)F)C(=O)O | C6H4F3NO2S
